US08791133B2
4-{(E)-2-[5-(3-Fluorophenyl)pyridin-2-yl]vinyl}-7,7-dimethyl-5-oxo-4,5,6,7,8,9-hexahydro-1H-pyrazolo[3,4-b]quinoline-3-carboxylic acid
83 mg of tert-butyl 4-{(E)-2-[5-(3-fluorophenyl)pyridin-2-yl]vinyl}-7,7-dimethyl-5-oxo-4,5,6,7,8,9-hexahydro-1H-pyrazolo[3,4-b]quinoline-3-carboxylate are dissolved in DCM (2.5 ml), admixed with TFA (2.5 ml) and stirred at RT for 3 h. The solvent is removed under reduced pressure, and the residue is suspended in toluene and concentrated by rotary evaporation once again. The resulting solid is used further without purification.

reactant | tert-butyl 4-{(E)-2-[5-(3-fluorophenyl)pyridin-2-yl]vinyl}-7,7-dimethyl-5-oxo-4,5,6,7,8,9-hexahydro-1H-pyrazolo[3,4-b]quinoline-3-carboxylate | 83 mg | FC=1C=C(C=CC1)C=1C=CC(=NC1)/C=C/C1C2=C(NC=3CC(CC(C13)=O)(C)C)NN=C2C(=O)OC(C)(C)C | C30H31FN4O3
reactant | TFA | 2.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2.5 ml | C(Cl)Cl | CH2Cl2
product | 4-{(E)-2-[5-(3-Fluorophenyl)pyridin-2-yl]vinyl}-7,7-dimethyl-5-oxo-4,5,6,7,8,9-hexahydro-1H-pyrazolo[3,4-b]quinoline-3-carboxylic acid | FC=1C=C(C=CC1)C=1C=CC(=NC1)/C=C/C1C2=C(NC=3CC(CC(C13)=O)(C)C)NN=C2C(=O)O | C26H23FN4O3
